US07368572B2
To a solution of dimethyl 1-diazo-2-oxopropyl phosphonate (see Ohira, S. Synth. Commun. 19, 561-564, (1989)) (2.97 g, 15.5 mmol) in methanol (50 ml) at 0° C. was added potassium carbonate (1.71 g, 12.4 mmol) and slowly a solution of N-Boc-2-amino-2-methyl-propionaldehyde (1.45 g, 7.74 mmol) in methanol (5 ml). The reaction mixture was stirred at 0-10° C. for additional 6 h, diluted with diethylether (˜150 ml) and with saturated aqueous ammonium chloride solution (150 ml). The organic layer was washed with saturated aqueous ammonium chloride solution (100 ml), water (100 ml), and finally with brine, dried over sodium sulfate, and concentrated in vacuo. Purification by flash chromatography over silica gel using ethyl acetate/hexane (1/10) provided N-Boc-2-amino-2-methylbut-3-yne (1.38 g) as yellowish oil.

reactant | potassium carbonate | 12.4 mmol, 1.71 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-Boc-2-amino-2-methyl-propionaldehyde | 7.74 mmol, 1.45 g | C(=O)(OC(C)(C)C)NC(C=O)(C)C | C9H17NO3
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
solvent | diethylether | ˜150 ml | C(C)OCC | C4H10O
solvent | ammonium chloride | 150 ml | [Cl-].[NH4+]
product | N-Boc-2-amino-2-methylbut-3-yne | 1.38 g | C(=O)(OC(C)(C)C)NC(C)(C#C)C | C10H17NO2
